US04661512
(1) benzyl N-(3,4-dimethoxybenzoyl)-(L)-pyroglutamate
A solution of 24.1 g (0.11 mol) of benzyl (L)-pyroglutamate, prepared according to Example II(1), in 200 ml of benzene is added over 11/2 hours to a suspension of 5.28 g (0.11 mol) of sodium hydride in 20 ml of dry benzene. After stirring for 1 hour at ordinary temperature, a solution of 22.1 g (0.11 mol) of 3,4-dimethoxybenzoyl chloride in 180 ml of benzene is run in.

reactant | benzyl (L)-pyroglutamate | 0.11 mol, 24.1 g | N1[C@@H](CCC1=O)C(=O)OCC1=CC=CC=C1 | C12H13NO3
reactant | sodium hydride | 0.11 mol, 5.28 g | [H-].[Na+]
reactant | 3,4-dimethoxybenzoyl chloride | 0.11 mol, 22.1 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 180 ml | C1=CC=CC=C1 | C6H6
product | benzyl N-(3,4-dimethoxybenzoyl)-(L)-pyroglutamate | COC=1C=C(C(=O)N2[C@@H](CCC2=O)C(=O)OCC2=CC=CC=C2)C=CC1OC | C21H21NO6
